US09278950B2
Step 3: tert-Butyl [(3S,5R)-1-(3-nitropyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate
A mixture of 4-chloro-3-nitropyridine (580 mg, 3.6 mmol), tert-butyl [(3S,5R)-5-(trifluoromethyl)piperidin-3-yl]carbamate (800 mg, 3 mmol), isopropyl alcohol (5.0 mL) and DIPEA (1.0 mL, 6.0 mmol) was stirred at 80° C. overnight. The reaction mixture was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel using CombiFlash® apparatus eluting with 50-100% EtOAc/hexanes. The purification gave 1.0 g (80% yield) of the sub-title compound as a yellow solid. LCMS calc. for C16H22F3N4O4(M+H)+: m/z=: 391.2. found: 391.1.

reactant | 4-chloro-3-nitropyridine | 3.6 mmol, 580 mg | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl [(3S,5R)-5-(trifluoromethyl)piperidin-3-yl]carbamate | 3 mmol, 800 mg | FC([C@@H]1C[C@@H](CNC1)NC(OC(C)(C)C)=O)(F)F | C11H19F3N2O2
reactant | DIPEA | 6.0 mmol, 1.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | isopropyl alcohol | 5.0 mL | C(C)(C)O | C3H8O
product | tert-Butyl [(3S,5R)-1-(3-nitropyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate | 1.0 g, 80% yield | [N+](=O)([O-])C=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H21F3N4O4
